US03943110
The 3,5-dichloro-4-aminobenzoic acid is refluxed with 200 ml. of thionyl chloride. A solution forms in 1 hr. and heating is maintained for 2 additional hours, after which the reaction mixture is permitted to stand overnight. Excess thionyl chloride is removed by evaporation to leave a yellow-brown crystalline mass as a residue. This is recrystallized from a mixture of n-hexane/ethylene chloride (90/10 by volume) to produce a light tan crystalline product, m.p. = 155° C. A portion of this material is recrystallized from methylene chloride as pale yellow needles existing in round clusters. These needles are dissolved in methylene chloride and anhydrous hydrogen chloride is bubbled into the solution. The yellow color is discharged and off-white needles of 3,5-dichloro-4-aminobenzoyl chloride are obtained, m.p. = 165° C.

reactant | 3,5-dichloro-4-aminobenzoic acid | ClC=1C=C(C(=O)O)C=C(C1N)Cl | C7H5Cl2NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3,5-dichloro-4-aminobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=C(C1N)Cl | C7H4Cl3NO
